US04885027
(N-Allyl-3-Trifluoromethylbenzylsulfonamido)acetamide
2.96 g of 3-trifluoromethylbenzylsulfonamidoacetamide was dissolved in 10 ml of dry dimethylformamide. To this ice-cooled solution was added 0.24 g of sodium hydride. The reaction mixture was stirred for 15 minutes at room temperature and then 0.95 ml of allyl bromide dissolved in 5 ml of dimethylformamide was added dropwise. Reaction was essentially instantaneous. After about 30 minutes, the reaction mixture was diluted with 150 ml of water and extracted twice with 75 ml portions of diethyl ether. Petroleum ether was added to the combined ether phases until cloudiness occurred, and this solution was washed with 100 ml of water. The organic phase was dried over magnesium sulfate and stripped to a white solid. Trituration with carbon tetrachloride afforded 2.8 g of the title compound, m.p. 91° to 92° C.

reactant | 3-trifluoromethylbenzylsulfonamidoacetamide | 2.96 g | FC(C=1C=C(CS(=O)(=O)NCC(=O)N)C=CC1)(F)F | C10H11F3N2O3S
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | allyl bromide | 0.95 ml | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | (N-Allyl-3-Trifluoromethylbenzylsulfonamido)acetamide | 2.8 g | C(C=C)N(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)CC(=O)N | C13H15F3N2O3S
